US06133273
4-Butyl-6-methyl-1,4-dihydro-pyrazolo[4,3-d]pyrimidine-5,7-dione
To 1.03 g (4.88 mmol) of 5-amino-1-butyl-3,6-dimethyl-1H-pyrimidine-2,4-dione in 20 mL H2O and 5 mL conc HCl at 0° C. was added a solution of 320 mg (4.64 mmol) of NaNO2 and 3 mL H2O in drops such that the internal reaction temperature does not exceed 5° C. (10 min). After stirring for an additional 10 min, the resulting slurry was added in drops to a 0° C. solution of 20% aq. NaOH. After addition is complete, the resulting solution is stirred at 23° C. for 20 min, neutralized to pH ~7 with dilute aq. HCl, poured into 200 mL of pH 7 buffer, and extracted with 2×150 mL EtOAc. The combined organics were dried over Na2SO4, filtered and evaporated to an orange solid. Flash chromatography on silica gel, eluting with CH2Cl2 /EtOAc (20/1 to 4/1), gave 617 mg (2.78 mmol, a 57% yield) of the title compound as an off-white solid. mp: 160-162° C.; 1H NMR (300 MHz, CDCl3): δ 0.98 (t, J=7.4 Hz, 3H), 1.44 (hex, J=7.3 Hz, 2H), 1.71-1.80 (m, 2H), 3.47 (s, 3H), 3.95 (t, J=7.4 Hz, 2H), 7.56 (s, 1H); IR (KBr, cm-1): 3142w, 2953w, 2932w, 1708s, 1649s, 1610s, 1296w; MS (ES) m/z (relative intensity): 223 (M+ +H, 100). Anal. Calcd for C10H14N4O2 : C, 54.04; H, 6.35; N, 25.21. Found: C, 52.50; H, 6.23; N, 22.64.

reactant | 5-amino-1-butyl-3,6-dimethyl-1H-pyrimidine-2,4-dione | 4.88 mmol, 1.03 g | NC=1C(N(C(N(C1C)CCCC)=O)C)=O | C10H17N3O2
reactant | NaNO2 | 4.64 mmol, 320 mg | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 20 mL | O | H2O
solvent | HCl | 5 mL | Cl | ClH
solvent | H2O | 3 mL | O | H2O
product | 4-Butyl-6-methyl-1,4-dihydro-pyrazolo[4,3-d]pyrimidine-5,7-dione | 57% yield | C(CCC)N1C(N(C(C2=C1C=NN2)=O)C)=O | C10H14N4O2
